* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 20.5
R1 n1 a 3
R2 a nc 4
V2 nc nd DC 31.3
R3 nd ne 3
V3 b ne DC 17.5
V4 nf b DC 14.1
R4 nf 0 5
.op
.print dc V(a) V(b)
.end